US06716878B1
STEP A: [1(S)-(4-Aminobenzoyl)-2,2-dimethylpropyl]-carbamic Acid tert-butyl Ester
Sodium azide (1.26 g, 19.4 mmol) was added to a solution of [1(S)-(4-fluorobenzoyl)-2,2-dimethylpropyl]-carbamic acid tert-butyl ester (0.20 g, 0.7 mmol) in DMF (15 mL), and the mixture heated at 120° C. for 40 hours. The solvent was removed in vacuo before addition of 10% NaHCO3 (aq.) (30 mL) to the residual solid. The aqueous phase was extracted with ethyl acetate (2×30 mL) and the organic phases washed with brine (1×30 mL), dried over MgSO4, filtered and the solvent removed in vacuo to give a yellow solid. Purification by column chromatography (SiO2, 4:1 iso-hexane:ethyl acetate) afforded the title compound as a yellow solid (67 mg, 36%).

reactant | Sodium azide | 19.4 mmol, 1.26 g | [N-]=[N+]=[N-].[Na+]
reactant | [1(S)-(4-fluorobenzoyl)-2,2-dimethylpropyl]-carbamic acid tert-butyl ester | 0.7 mmol, 0.20 g | C(C)(C)(C)OC(N[C@@H](C(C)(C)C)C(C1=CC=C(C=C1)F)=O)=O | C17H24FNO3
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | [1(S)-(4-Aminobenzoyl)-2,2-dimethylpropyl]-carbamic Acid tert-butyl Ester | 67 mg, 36% | C(C)(C)(C)OC(N[C@@H](C(C)(C)C)C(C1=CC=C(C=C1)N)=O)=O | C17H26N2O3
